US04851409
Preparation of 3-(methylthio)phenylbromide
To a solution of 3-bromothiophenol (10 g) in acetone (250 mL) was added potassium carbonate (14.6 g) and iodomethane (4.28 mL). The heterogenous mixture was refluxed for 4 hrs., cooled to room temperature, filtered, and concentrated under reduced pressure. Ether (200 mL) was added, and the mixture was filtered again and finally evaporated to dryness to yield the title compound.

reactant | 3-bromothiophenol | 10 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | potassium carbonate | 14.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 4.28 mL | IC | CH3I
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 3-(methylthio)phenylbromide | CSC=1C=C(C=CC1)Br | C7H7BrS
